US07368578B2
A mixture of methyl 3-(4-chloromethyl-5-methyl-1,3-oxazol-2-yl)benzoate (3.0 g), potassium carbonate (1.42 g), vanillin (1.57 g) and N,N-dimethylformamide (50 mL) was stirred at 90° C. for 2 hrs. Water was poured into the reaction mixture, and the precipitated crystals were collected by filtration to give methyl 3-{4-[(4-formyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}benzoate as colorless crystals (3.76 g, 87%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 168-169° C.

reactant | methyl 3-(4-chloromethyl-5-methyl-1,3-oxazol-2-yl)benzoate | 3.0 g | ClCC=1N=C(OC1C)C=1C=C(C(=O)OC)C=CC1 | C13H12ClNO3
reactant | potassium carbonate | 1.42 g | C([O-])([O-])=O.[K+].[K+]
reactant | vanillin | 1.57 g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | methyl 3-{4-[(4-formyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}benzoate | 3.76 g, 87% | C(=O)C1=CC(=C(OCC=2N=C(OC2C)C=2C=C(C(=O)OC)C=CC2)C=C1)OC | C21H19NO6
